US08193228B2
Pd (10 wt % on activated carbon) (10 mg, cat.) was added to a degassed solution of 2-(4-{1-azido-2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]ethyl}phenyl)-5-fluoropyridine (110 mg, 0.17 mmol) in methanol (6 mL). After stirring under an atmosphere of hydrogen overnight, the reaction mixture was filtered through celite rinsing with methanol. The filtrate was concentrated to afford 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanamine which was used in the next step without further purification.

reactant | 2-(4-{1-azido-2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]ethyl}phenyl)-5-fluoropyridine | 0.17 mmol, 110 mg | N(=[N+]=[N-])C(CC=1N(C=C(N1)CC(CC)(C)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC=C(C=C1)F | C41H39FN6
solvent | methanol | 6 mL | CO | CH4O
catalyst | Pd | 10 mg | [Pd] | Pd
product | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanamine | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(N)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C41H41FN4
